US04735959
Ethyl 4-{N-[α-(4-methyl-phenyl)-2-piperidino-benzyl]-aminocarbonyl-methyl}-cinnamate
Four hundred twenty-seven milligrams (1 m mol) of 4-{N-[α-(4-methyl-phenyl)-2-piperidino-benzyl]-aminocarbonylmethyl}-benzaldehyde were added to an ethereal solution of 450 mg (2 m mol) of ethyl diethylphosphonoacetate and 100 mg (2 m mol) of 50% sodium hydride. After the mixture had been stirred overnight, water was added, and the resulting mixture was extracted with chloroform and purified by column chromatography on silica gel by use of toluene/ethyl acetate (5:1) as eluant.

reactant | 4-{N-[α-(4-methyl-phenyl)-2-piperidino-benzyl]-aminocarbonylmethyl}-benzaldehyde | Four hundred twenty-seven milligrams | CC1=CC=C(C=C1)C(C1=C(C=CC=C1)N1CCCCC1)NC(=O)CC1=CC=C(C=O)C=C1 | C28H30N2O2
reactant | ethyl diethylphosphonoacetate | 450 mg | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 100 mg | [H-].[Na+]
solvent | water | O | H2O
product | Ethyl 4-{N-[α-(4-methyl-phenyl)-2-piperidino-benzyl]-aminocarbonyl-methyl}-cinnamate | CC1=CC=C(C=C1)C(C1=C(C=CC=C1)N1CCCCC1)NC(=O)CC1=CC=C(C=CC(=O)OCC)C=C1 | C32H36N2O3
